US05736554
Step 1: Preparation of 1 (S)-2-(5-chloro-2-thienyl)-1-hydroxy-1-methylethane
A solution of 2-chlorothiophene (8.17 g) in tetrahydrofuran (80 ml) is cooled to -30° C. and 1.6M n-butyllithium in hexanes (43.0 ml) is added dropwise. The mixture is stirred at -30° C. for about 1 hour, (S)-propylene oxide (4.00 g) is added, and the mixture is warmed to 0° C. and stirred at that temperature for about 3 hours. The reaction is quenched with saturated aqueous ammonium chloride solution, diluted with ether, and the layers separated. The organic layer is washed with brine, dried over magnesium sulfate, and concentrated in vacuo to give the desired product.

reactant | 2-chlorothiophene | 8.17 g | ClC=1SC=CC1 | C4H3ClS
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | (S)-propylene oxide | 4.00 g | C1[C@H](C)O1 | C3H6O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | (S)-2-(5-chloro-2-thienyl)-1-hydroxy-1-methylethane | ClC1=CC=C(S1)C[C@H](C)O | C7H9ClOS
